US06331538B1
3-Allyloxy-1-benzyl-6,7-difluoro-1H-quinazoline-2,4-dione
A solution of 3-allyloxy-6,7-difluoro-1H-quinazoline-2,4-dione (Example Z-3, 0.7 g, 2.8 mmol) in 20 mL of DMF was added to a suspension of sodium hydride (0.12 g, 3.0 mmol) in 15 mL of DMF and stirred for 30 minutes. Benzyl bromide (0.65 mL, 5.5 mmol) was added, and the mixture was stirred at 25° C. for 18 hours. The reaction was quenched with 1 mL of water and concentrated to an oil. The residue was dissolved in chloroform washed with water and brine and dried over magnesium sulfate. The solution was concentrated to give 1.04 g of the title compound as a solid, mp 130-132° C.

reactant | 3-allyloxy-6,7-difluoro-1H-quinazoline-2,4-dione | 2.8 mmol, 0.7 g | C(C=C)ON1C(NC2=CC(=C(C=C2C1=O)F)F)=O | C11H8F2N2O3
reactant | sodium hydride | 3.0 mmol, 0.12 g | [H-].[Na+]
reactant | Benzyl bromide | 5.5 mmol, 0.65 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 3-Allyloxy-1-benzyl-6,7-difluoro-1H-quinazoline-2,4-dione | 1.04 g | C(C=C)ON1C(N(C2=CC(=C(C=C2C1=O)F)F)CC1=CC=CC=C1)=O | C18H14F2N2O3
